US09238639B2
B) Methyl(6-methoxy-7-methyl-1-benzothiophen-3-yl)acetate
Methyl 4-((3-methoxy-2-methylphenyl)sulfanyl)-3-oxobutanoate (3.51 g) was added to MsOH (20 mL) at room temperature. The mixture was stirred at room temperature for 15 min. The mixture was poured into ice-water at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with 1N NaOH and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (3.10 g).

reactant | Methyl 4-((3-methoxy-2-methylphenyl)sulfanyl)-3-oxobutanoate | 3.51 g | COC=1C(=C(C=CC1)SCC(CC(=O)OC)=O)C | C13H16O4S
solvent | MsOH | 20 mL | S(=O)(=O)(C)O | CH4O3S
product | Methyl(6-methoxy-7-methyl-1-benzothiophen-3-yl)acetate | 3.10 g | COC(CC1=CSC2=C1C=CC(=C2C)OC)=O | C13H14O3S
